2164-02-06 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - was not able to do diagnostic paracentesis successfully
   - kept on paralytics overnight and yesterday
   - started standing haldol 5mg IV Q8H
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-5**] 08:00 PM
   Vancomycin - [**2164-2-6**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-6**] 02:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.1 mg/Kg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-6**] 12:00 AM
   Haloperidol (Haldol) - [**2164-2-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-6**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 92 (89 - 115) bpm
   BP: 103/55(73) {85/48(62) - 130/72(88)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (12 - 17)mmHg
   Total In:
                                                                  3,617 mL
                                                                    918 mL
   PO:
   TF:
   IVF:
                                                                  3,617 mL
                                                                    918 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    257 mL
   Urine:
                                                                    830 mL
                                                                    257 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,437 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.40/37/94.[**Numeric Identifier 433**]/25/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, + hepatomegaly
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   76 K/uL
   8.0 g/dL
   109 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   139 mEq/L
   24.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2164-2-5**]  02:31 AM
                             [**2164-2-5**]  05:10 AM
                             [**2164-2-5**]  08:27 AM
                             [**2164-2-5**]  10:16 AM
                             [**2164-2-5**]  01:10 PM
                             [**2164-2-5**]  06:28 PM
                             [**2164-2-5**]  06:32 PM
                             [**2164-2-6**]  12:33 AM
                             [**2164-2-6**]  02:04 AM
                             [**2164-2-6**]  06:23 AM
   WBC
   8.4
   Hct
   25.5
   23.7
   24.8
   Plt
   76
   Cr
   0.8
   TCO2
   28
   23
   27
   25
   25
   23
   24
   Glucose
   138
   109
   Other labs: PT / PTT / INR:18.5/39.5/1.7, ALT / AST:15/61, Alk Phos / T
   Bili:78/4.5, Amylase / Lipase:23/16, Fibrinogen:571 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.1 g/dL, LDH:346 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, now presents with rib fractures, large
   infiltrate, fever, bandemia suggestive of pneumonia intubated for acute
   hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric and not suggestive of ARDS.  Initial A-a gradient is 19
   (expected 16). Unclear if she has underlying pulmonary disease.  Pt did
   well until [**2-4**] PM when she had acute desat likely [**1-23**] derecruitment on
   PSV.  Pt very dysynchronous on sedation until paralyzed.  Vent weaning
   on paralytics [**2-5**].
   - goal FiO2 40% before decreasing PEEP
   - wean paralysis as tolerated
   - cont haldol TID for dysynchrony
   - per esophageal probe have room to increase PEEP and TV if necessary
   (although will not try to increase MV today)
   - continue Vanc/Zosyn to cover HAP or possible resistant community
   organisms; Levaquin for atypicals
   - cxs pending
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**].
   - ammonia level 80
   - evidence of cirrhosis, portal hypertension and ascites on RUQ U/S
   - consider re-tap if evidence of further ascites
   - hold all home psych/pain meds
   - hold lactulose for now given decreased bowel function [**1-23**] sedation
   regimen, c/s adding when function returns
   .
   # Hypotension: She was transiently hypotensive following intubation and
   sedation. I suspect this is sedation related; however, given degree of
   pneumonia, sepsis if certainly possible.  On [**2-5**] required 7.5 L and
   0.08 levophed in the setting of increased sedation (fentanyl 400,
   versed 4, propofol 80).
   - IVF boluses as needed to keep CVP 10-12, UOP 30 cc/hr, goal MAP 65
   - levophed PRN
   - will continue to monitor preload dependence with stroke volume
   variability
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - check Hep C ab and VL
   - appreciate liver recs
   - start lactulose when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - [**Hospital1 **] Hct
   - guaiac all stools
   - H2 blocker, has RIJ and PIV for access
   - tranfuse for Hct > 3 point drop
   - f/u iron studies
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor and obtain old records
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs if bowel
   function returns (will try to d/c paralytics and wean narcotics) or TPN
   if bowel function remains slow
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals
   .
   # Code: Full
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-2-4**] 04:49 AM
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-07 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - did not tolerate the stopping of paralytics
   - labile BPs, was on and off levofed during most of day
   - started methadone 20 mg IV tid to see if sedation can start to be
   weaned and paralytics removed
   - desats with moving and suctioning
   - still no BM, likely will need to start TPN today
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-6**] 06:00 PM
   Levofloxacin - [**2164-2-6**] 08:13 PM
   Vancomycin - [**2164-2-6**] 10:08 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-6**] 08:14 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-7**] 12:00 AM
   Haloperidol (Haldol) - [**2164-2-7**] 12:00 AM
   Methadone Hydrochloride - [**2164-2-7**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-7**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 99 (56 - 121) bpm
   BP: 101/55(71) {67/43(52) - 188/100(139)} mmHg
   RR: 22 (0 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 322 (13 - 325)mmHg
   Total In:
                                                                  3,579 mL
                                                                    601 mL
   PO:
   TF:
   IVF:
                                                                  3,389 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,142 mL
                                                                    330 mL
   Urine:
                                                                    942 mL
                                                                    330 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,437 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/44/81.[**Numeric Identifier 8**]/25/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, + hepatomegaly
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   64 K/uL
   7.6 g/dL
   103 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   19 mg/dL
   107 mEq/L
   138 mEq/L
   23.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2164-2-5**]  08:27 AM
                             [**2164-2-5**]  10:16 AM
                             [**2164-2-5**]  01:10 PM
                             [**2164-2-5**]  06:28 PM
                             [**2164-2-5**]  06:32 PM
                             [**2164-2-6**]  12:33 AM
                             [**2164-2-6**]  02:04 AM
                             [**2164-2-6**]  06:23 AM
                             [**2164-2-7**]  02:33 AM
                             [**2164-2-7**]  02:48 AM
   WBC
   8.4
   6.8
   Hct
   25.5
   23.7
   24.8
   23.9
   Plt
   76
   64
   Cr
   0.8
   0.7
   TCO2
   27
   25
   25
   23
   24
   27
   Glucose
   109
   103
   Other labs: PT / PTT / INR:17.8/42.2/1.6, ALT / AST:15/69, Alk Phos / T
   Bili:102/7.7, Amylase / Lipase:29/14, Fibrinogen:571 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:346 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, now presents with rib fractures, large
   infiltrate, fever, bandemia suggestive of pneumonia intubated for acute
   hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric and not suggestive of ARDS.  Initial A-a gradient is 19
   (expected 16). Unclear if she has underlying pulmonary disease.  Pt did
   well until [**2-4**] PM when she had acute desat likely [**1-23**] derecruitment on
   PSV.  Pt very dysynchronous on sedation until paralyzed.  Vent weaning
   on paralytics [**2-5**].  Did not tolerate cessation of paralytics [**2-6**].
   - goal FiO2 40% before decreasing PEEP
   - wean paralysis as tolerated
   - cont haldol TID for dysynchrony
   - per esophageal probe have room to increase PEEP and TV if necessary
   (although will not try to increase MV today)
   - continue Vanc/Zosyn to cover HAP or possible resistant community
   organisms; Levaquin for atypicals
   - cxs pending
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**].
   - ammonia level 80
   - evidence of cirrhosis, portal hypertension and ascites on RUQ U/S
   - consider re-tap if evidence of further ascites
   - hold all home psych/pain meds
   - hold lactulose for now given decreased bowel function [**1-23**] sedation
   regimen, c/s adding when function returns
   - added methadone 20mg IV TID [**2-6**] to decrease sedation needs
   .
   # Hypotension: She was transiently hypotensive following intubation and
   sedation. I suspect this is sedation related; however, given degree of
   pneumonia, sepsis if certainly possible.  On [**2-5**] required 7.5 L and
   0.08 levophed in the setting of increased sedation (fentanyl 400,
   versed 4, propofol 80).
   - IVF boluses as needed to keep CVP 10-12, UOP 30 cc/hr, goal MAP 65
   - levophed PRN
   - will continue to monitor preload dependence with stroke volume
   variability
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - start lactulose when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - [**Hospital1 **] Hct
   - guaiac all stools
   - H2 blocker, has RIJ and PIV for access
   - tranfuse for Hct > 3 point drop
   - f/u iron studies
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor and obtain old records
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs if bowel
   function returns (will try to d/c paralytics and wean narcotics) or TPN
   if bowel function remains slow
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals
   .
   # Code: Full
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-08 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2164-2-7**] 08:00 AM
   [**2-7**] Events:
   - started TPN (pt with high residuals from NGT)
   - switched levaquin to cipro (day 3 of ABX)
   - esophageal balloon placed
   - trial of increased PEEP to 22 -> dropped pressure in setting of
   increased sedation
   - trial off of paralytics since 2PM -> pt became more hypercarbic
   overnight (not taking in full TV)
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-6**] 08:13 PM
   Vancomycin - [**2164-2-7**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-8**] 03:00 AM
   Ciprofloxacin - [**2164-2-8**] 06:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-2-8**] 12:30 AM
   Haloperidol (Haldol) - [**2164-2-8**] 12:30 AM
   Midazolam (Versed) - [**2164-2-8**] 01:57 AM
   Fentanyl - [**2164-2-8**] 01:57 AM
   Methadone Hydrochloride - [**2164-2-8**] 01:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-8**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.4
C (99.3
   HR: 100 (95 - 108) bpm
   BP: 122/58(80) {73/39(52) - 122/65(85)} mmHg
   RR: 24 (5 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 88 (15 - 318)mmHg
   Total In:
                                                                  2,376 mL
                                                                    704 mL
   PO:
   TF:
   IVF:
                                                                  2,144 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    455 mL
   Urine:
                                                                    950 mL
                                                                    455 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 35 cmH2O
   Compliance: 16 cmH2O/mL
   SpO2: 95%
   ABG: 7.32/51/86.[**Numeric Identifier **]/27/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, + hepatomegaly
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   80 K/uL
   7.8 g/dL
   136 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   18 mg/dL
   104 mEq/L
   134 mEq/L
   23.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2164-2-6**]  06:23 AM
                             [**2164-2-7**]  02:33 AM
                             [**2164-2-7**]  02:48 AM
                             [**2164-2-7**]  12:30 PM
                             [**2164-2-7**]  03:31 PM
                             [**2164-2-7**]  06:31 PM
                             [**2164-2-8**]  12:38 AM
                             [**2164-2-8**]  02:46 AM
                             [**2164-2-8**]  03:05 AM
                             [**2164-2-8**]  04:59 AM
   WBC
   6.8
   9.4
   Hct
   23.9
   23.8
   Plt
   64
   80
   Cr
   0.7
   0.7
   TCO2
   24
   27
   25
   26
   26
   27
   28
   27
   Glucose
   103
   136
   Other labs: PT / PTT / INR:17.7/37.2/1.6, ALT / AST:15/69, Alk Phos / T
   Bili:102/6.0, Amylase / Lipase:29/14, Fibrinogen:571 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.0 g/dL, LDH:346 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, now presents with rib fractures, large
   infiltrate, fever, bandemia suggestive of pneumonia intubated for acute
   hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric and not suggestive of ARDS.  Initial A-a gradient is 19
   (expected 16). Unclear if she has underlying pulmonary disease.  Pt did
   well until [**2-4**] PM when she had acute desat likely [**1-23**] derecruitment on
   PSV.  Pt very dysynchronous on sedation until paralyzed.  Vent weaning
   on paralytics [**2-5**].  Did not tolerate cessation of paralytics [**2-6**].
   - goal FiO2 40% before decreasing PEEP
   - trial off paralytics
   - cont haldol TID for dysynchrony
   - will need to try and replace esophageal balloon today
   - continue Vanc/Zosyn to cover HAP or possible resistant community
   organisms; Levaquin for atypicals
   - cxs pending
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**].
   - ammonia level 80
   - evidence of cirrhosis, portal hypertension and ascites on RUQ U/S
   - consider re-tap if evidence of further ascites
   - hold all home psych/pain meds
   - lactulose PR, c/s adding PT when bowel function returns
   - added methadone 20mg IV TID [**2-6**] to decrease sedation needs
   .
   # Hypotension: She was transiently hypotensive following intubation and
   sedation. I suspect this is sedation related; however, given degree of
   pneumonia, sepsis if certainly possible.  On [**2-5**] required 7.5 L and
   0.08 levophed in the setting of increased sedation (fentanyl 400,
   versed 4, propofol 80).
   - IVF boluses as needed to keep CVP 10-12, UOP 30 cc/hr, goal MAP 65
   - levophed PRN
   - will continue to monitor preload dependence with stroke volume
   variability
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable
   - guaiac all stools
   - on PPI, has RIJ and PIV for access
   - f/u iron studies
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor and obtain old records
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
   .
   # Code: Full
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   TPN without Lipids - [**2164-2-7**] 06:30 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   20 Gauge - [**2164-2-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-08 10:03:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.9
F - [**2164-2-7**] 08:00 AM
   De-paralyzed
   Trial of increased PEEP required increased sedation --> hypotension to
   70s --> decreased PEEP --> improved BP
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-6**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-8**] 03:00 AM
   Ciprofloxacin - [**2164-2-8**] 06:00 AM
   Vancomycin - [**2164-2-8**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-2-8**] 12:30 AM
   Midazolam (Versed) - [**2164-2-8**] 01:57 AM
   Fentanyl - [**2164-2-8**] 01:57 AM
   Methadone Hydrochloride - [**2164-2-8**] 01:59 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-8**] 08:00 AM
   Other medications:
   vanco, sqh, colace, levophed @ .03, CHG, PPI, zosyn, sqi, fentanyl @
   500, haldol 5 q8, MDIs, methadone, cipro, midaz @ 6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-8**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.7
   HR: 94 (94 - 108) bpm
   BP: 118/53(76) {73/39(52) - 122/65(85)} mmHg
   RR: 24 (5 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 19 (15 - 88)mmHg
   Total In:
                                                                  2,376 mL
                                                                  1,067 mL
   PO:
   TF:
   IVF:
                                                                  2,144 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    695 mL
   Urine:
                                                                    950 mL
                                                                    695 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   Compliance: 17.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.32/51/86.[**Numeric Identifier **]/27/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: course breath sounds
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right: 2+ edema, Left: 2+ edema
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   80 K/uL
   136 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   18 mg/dL
   104 mEq/L
   134 mEq/L
   23.8 %
   9.4 K/uL
        [image002.jpg]
                             [**2164-2-6**]  06:23 AM
                             [**2164-2-7**]  02:33 AM
                             [**2164-2-7**]  02:48 AM
                             [**2164-2-7**]  12:30 PM
                             [**2164-2-7**]  03:31 PM
                             [**2164-2-7**]  06:31 PM
                             [**2164-2-8**]  12:38 AM
                             [**2164-2-8**]  02:46 AM
                             [**2164-2-8**]  03:05 AM
                             [**2164-2-8**]  04:59 AM
   WBC
   6.8
   9.4
   Hct
   23.9
   23.8
   Plt
   64
   80
   Cr
   0.7
   0.7
   TCO2
   24
   27
   25
   26
   26
   27
   28
   27
   Glucose
   103
   136
   Other labs: PT / PTT / INR:17.7/37.2/1.6, ALT / AST:15/69, Alk Phos / T
   Bili:102/6.0, Amylase / Lipase:29/14, Fibrinogen:571 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.0 g/dL, LDH:346 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   53-year-old woman with severe respiratory failure related to likely
   ARDS complicating multilobar pneumonia.  Overall, her oxygenation is a
   bit improved today and she has tolerated being off of paralytics.
   ARDS
          Continue <=6 cc/kg/breath PBW ventilation (now a bit lower
   than this).  Goal 4-5 cc/breath if tolerates.
          Rotational bed, favoring left side down as needed for
   hypoxemia
          Recheck Pes today
          Wean FiO2 as tolerated
          Hold off today on diuresis while on pressors
   Pneumonia
          Continue vanco/ zosyn / quinolone, since received ABX before
   our cultures
   Shock/hypotension
          Low SVV argues for adeqequate volume repletion
          Sedation and PEEP likely to be playing substantial role
          UOP argues for adequate perfusion
   Sedation
          Increase methadone and try to decrease fentanyl
          Continue BZD
    Nutrition
          We were able to get [**Last Name (LF) 1416**], [**First Name3 (LF) **] began TPN
 CIRRHOSIS OF LIVER, OTHER
          No acute intervention
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2164-2-7**] 06:30 PM 42 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   20 Gauge - [**2164-2-7**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Had acute hypoxemic and hypotensive event after rounds, with BPs and
   Sats both in 70s.  No clinical evidence of pneumothorax or of obvious
   dyssynchorniy.  PIPs/Pplat not appreciably changed. On review off
   pressure tracings, probably represented derecruitment.  Therefore
   recruited with 30 cm H2O x 30 seconds.  Sats increased back to 90s
   without major hemodynamic compromise.
   Our team also discussed with family today.  Family meeting offered this
   evening, but family scheduling prefers afternoon on Friday, which we
   will accommodate.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2164-2-8**] 11:01 PM ------

2164-02-09 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-8**] events:
   - restarted paralytics
   - changed TV to 300 and PEEP 20 from TV 320 PEEP 18
 NASAL SWAB - At [**2164-2-8**] 10:16 PM
   mrsa
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-6**] 08:13 PM
   Vancomycin - [**2164-2-8**] 07:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 02:08 AM
   Ciprofloxacin - [**2164-2-9**] 06:01 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.15 mg/Kg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-2-8**] 04:00 PM
   Pantoprazole (Protonix) - [**2164-2-8**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-9**] 12:07 AM
   Methadone Hydrochloride - [**2164-2-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-9**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 86 (83 - 108) bpm
   BP: 102/54(72) {74/44(54) - 171/79(111)} mmHg
   RR: 24 (24 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 18 (15 - 20)mmHg
   Total In:
                                                                  2,888 mL
                                                                    958 mL
   PO:
   TF:
   IVF:
                                                                  1,860 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    480 mL
   Urine:
                                                                  1,645 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,243 mL
                                                                    478 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 93%
   ABG: 7.37/50/73.[**Numeric Identifier **]/29/1
   Ve: 6.7 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   86 K/uL
   7.4 g/dL
   131 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   134 mEq/L
   23.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-2-7**]  06:31 PM
                             [**2164-2-8**]  12:38 AM
                             [**2164-2-8**]  02:46 AM
                             [**2164-2-8**]  03:05 AM
                             [**2164-2-8**]  04:59 AM
                             [**2164-2-8**]  10:34 AM
                             [**2164-2-8**]  12:55 PM
                             [**2164-2-8**]  03:34 PM
                             [**2164-2-9**]  06:10 AM
                             [**2164-2-9**]  06:12 AM
   WBC
   9.4
   6.4
   Hct
   23.8
   23.0
   Plt
   80
   86
   Cr
   0.7
   0.6
   TCO2
   26
   27
   28
   27
   29
   28
   29
   30
   Glucose
   136
   131
   Other labs: PT / PTT / INR:17.5/37.3/1.6, ALT / AST:14/48, Alk Phos / T
   Bili:99/3.9, Amylase / Lipase:33/18, Fibrinogen:571 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:346 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics. On vanc/zosyn/levaquin
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Still requiring levofed for now
   with labile BPs as low as 70s up to 190s.  Pt had episode of hypoxia
   and hypotension in setting of movement yesterday; likely from
   derecruitement.
   - levophed PRN keep CVP 10-12, UOP 30 cc/hr, goal MAP 65
   - will continue to monitor preload dependence with stroke volume
   variability
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric and not suggestive of ARDS.  Initial A-a gradient is 19
   (expected 16). Unclear if she has underlying pulmonary disease.  Pt did
   well until [**2-4**] PM when she had acute desat likely [**1-23**] derecruitment on
   PSV.  Pt very dysynchronous on sedation until paralyzed.  Vent on
   paralytics until [**2-7**], off for one day, had to be restarted yesterday.
   Esophageal balloon placed [**2-7**]
 appears to be under PEEP by 4 today,
   will continue to monitor esophageal readings.
   - cont haldol TID for dysynchrony
   - continue Vanc/Zosyn to cover HAP or possible resistant community
   organisms; Levaquin for atypicals on day 1 was [**2-4**].  Will complete 14
   day course.
   - cultures pending, no growth to date
   - goal to further decrease tidal volume and decrease PEEP if possible
   .
   # Sedation:  patient still on paralytics and fentanyl/zosyn.
   - added methadone for effort to try and wean fentanyl, down from 500
   yestserday to 400 today
   - stop paralytics today and do trial
   - continue to wean as possible, fentanyl first in order to start bowel
   movements
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia.
   - unable to assess while paralyzed and sedated; trying to wean as much
   as possible
   - ammonia levels slightly elevated
   - evidence of cirrhosis, portal hypertension and ascites on RUQ U/S
   - consider re-tap if evidence of further ascites, still appears to have
   only small amount on exam
   - hold all home psych/pain meds
   - lactulose PR, c/s adding PT when bowel function returns
   - methadone 20mg IV TID
   .
   # Constipation
 no BMs since admission
   - if unparalyzed later today will try PO narcan
   - continue lactulose enemas PRN
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable, transfuse for Hct <21
   - guaiac all stools
   - on PPI, has RIJ and PIV for access
   - f/u iron studies
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
   .
   # Code: Full
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   TPN without Lipids - [**2164-2-8**] 06:34 PM 47.[**Telephone/Fax (5) 542**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   20 Gauge - [**2164-2-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-09 10:48:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
   episode of hypoxemia -- reparalyzed and recruited
   Patient unable to provide history: Sedated
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2164-2-6**] 08:13 PM
   Ciprofloxacin - [**2164-2-9**] 06:01 AM
   Vancomycin - [**2164-2-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 09:14 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Cisatracurium - 0.15 mg/Kg/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-2-8**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-9**] 07:58 AM
   Pantoprazole (Protonix) - [**2164-2-9**] 07:58 AM
   Methadone Hydrochloride - [**2164-2-9**] 10:04 AM
   Other medications:
   meds per [**Month (only) **] -- reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-9**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 91 (83 - 99) bpm
   BP: 99/56(72) {74/40(53) - 214/98(144)} mmHg
   RR: 24 (24 - 50) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 19 (15 - 21)mmHg
   Total In:
                                                                  2,888 mL
                                                                  1,733 mL
   PO:
   TF:
   IVF:
                                                                  1,860 mL
                                                                  1,233 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    741 mL
   Urine:
                                                                  1,645 mL
                                                                    741 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,243 mL
                                                                    992 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   Compliance: 23.1 cmH2O/mL
   SpO2: 91%
   ABG: 7.37/50/73.[**Numeric Identifier **]/29/1
   Ve: 6.7 L/min
   PaO2 / FiO2: 104
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: clear on left, rhonchi on right
   Abdominal: firm but not tense abdomen
   Extremities: Right: 2+ edema, Left: 2+ edema
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   7.4 g/dL
   86 K/uL
   131 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   134 mEq/L
   23.0 %
   6.4 K/uL
        [image002.jpg]
                             [**2164-2-7**]  06:31 PM
                             [**2164-2-8**]  12:38 AM
                             [**2164-2-8**]  02:46 AM
                             [**2164-2-8**]  03:05 AM
                             [**2164-2-8**]  04:59 AM
                             [**2164-2-8**]  10:34 AM
                             [**2164-2-8**]  12:55 PM
                             [**2164-2-8**]  03:34 PM
                             [**2164-2-9**]  06:10 AM
                             [**2164-2-9**]  06:12 AM
   WBC
   9.4
   6.4
   Hct
   23.8
   23.0
   Plt
   80
   86
   Cr
   0.7
   0.6
   TCO2
   26
   27
   28
   27
   29
   28
   29
   30
   Glucose
   136
   131
   Other labs: PT / PTT / INR:17.5/37.3/1.6, ALT / AST:14/48, Alk Phos / T
   Bili:99/3.9, Amylase / Lipase:33/18, Fibrinogen:571 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:346 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR pending
   Assessment and Plan
   53-year-old woman with severe respiratory failure related to likely
   ARDS complicating multilobar pneumonia.  She remains quite tenuous.
   ARDS
          Continue <=6 cc/kg/breath PBW ventilation (now a bit lower
   than this).  Goal ~5 cc/breath if tolerates.
          Recheck Pes today and adjust PEEP
          Rotational bed, favoring left side down as needed for
   hypoxemia
          Trial off paralytics today
          Although she is on norepinephrine, this appears to be mostly
   due to sedation (high CVP, low SVV).  We will begin trying to keep her
   even to slightly negative with diuretics and concentration of meds
   today.
   Pneumonia
          Continue vanco/ zosyn / quinolone, since received ABX before
   our cultures
          Will complete 14 day course
   Shock/hypotension
          Low SVV argues for adeqequate volume repletion
          Sedation and PEEP likely to be playing substantial role
          UOP argues for adequate perfusion
   Sedation
          Taper fentanyl once paralytics off
          Continue methadone
          Continue BZD
    Ileus
          Try oral narcan
    Nutrition
          TPN
    Cirrhosis
          No acute intervention
   Diabetes/hyperglycemia
          Insulin in TPN, SQ insulin
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2164-2-8**] 06:34 PM 47.[**Telephone/Fax (5) 542**] mL/hour
   Glycemic Control:  Comments: start insulin gtt if blood sugars not
   controlled today
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   20 Gauge - [**2164-2-7**] 12:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2164-02-10 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-9**] Events:
   - paralytics turned off, did well
   - vent remained unchanged, but ABGs showing slightly more
   - CXR showing ET tube too close to carina; pulled back 1 cm
   - levophed turned off around 6 pm, MAPS in low to high 60s since
   - given lasix for fluid overload; SBPs borderline low in 90s-100s and
   CVPs likely low for patient given her high PEEP; received two 250 cc
   boluses and no need to turn pressors back on
   - PO narcan given, no bowel movement; slightly disynchronous after
   administration
   - lactulose enema given, no BM
   - fever to 100.8, pan cultured
   - fever to 101.6, changed zosyn to [**Last Name (un) **] for ESBL GN coverage
 BLOOD CULTURED - At [**2164-2-9**] 06:30 PM
 BLOOD CULTURED - At [**2164-2-9**] 06:40 PM
 URINE CULTURE - At [**2164-2-9**] 06:43 PM
 FEVER - 101.6
F - [**2164-2-10**] 12:00 AM
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 05:30 PM
   Ciprofloxacin - [**2164-2-9**] 06:15 PM
   Vancomycin - [**2164-2-9**] 08:30 PM
   Meropenem - [**2164-2-10**] 02:03 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-9**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-9**] 07:58 AM
   Furosemide (Lasix) - [**2164-2-9**] 12:06 PM
   Methadone Hydrochloride - [**2164-2-9**] 03:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-10**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.8
   HR: 101 (83 - 113) bpm
   BP: 90/50(63) {74/40(53) - 234/111(159)} mmHg
   RR: 35 (14 - 50) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 15 (14 - 22)mmHg
   Total In:
                                                                  3,716 mL
                                                                  1,188 mL
   PO:
   TF:
   IVF:
                                                                  2,524 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                  2,541 mL
                                                                    255 mL
   Urine:
                                                                  2,241 mL
                                                                    255 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,175 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   SpO2: 90%
   ABG: 7.33/57/68/28/1
   Ve: 7.8 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   109 K/uL
   6.8 g/dL
   132 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   22 mg/dL
   102 mEq/L
   135 mEq/L
   21.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2164-2-8**]  03:05 AM
                             [**2164-2-8**]  04:59 AM
                             [**2164-2-8**]  10:34 AM
                             [**2164-2-8**]  12:55 PM
                             [**2164-2-8**]  03:34 PM
                             [**2164-2-9**]  06:10 AM
                             [**2164-2-9**]  06:12 AM
                             [**2164-2-9**]  06:04 PM
                             [**2164-2-10**]  01:44 AM
                             [**2164-2-10**]  01:55 AM
   WBC
   6.4
   7.4
   Hct
   23.0
   21.5
   Plt
   86
   109
   Cr
   0.6
   0.8
   TCO2
   28
   27
   29
   28
   29
   30
   30
   31
   Glucose
   131
   132
   Other labs: PT / PTT / INR:17.7/41.3/1.6, CK / CKMB / Troponin-T:13//,
   ALT / AST:13/53, Alk Phos / T Bili:99/3.2, Amylase / Lipase:33/18,
   Fibrinogen:571 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:250
   IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics. On vanc/zosyn/levaquin
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for now
   with labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.
   - fluid boluses PRN keep CVP 10-12, UOP 30 cc/hr, goal MAP 65; can add
   levophed back as needed
   - will continue to monitor preload dependence with stroke volume
   variability
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric and not suggestive of ARDS.  Initial A-a gradient is 19
   (expected 16). Unclear if she has underlying pulmonary disease.  Pt
   still requiring vent support and having episodes of hypoxia with
   movement, likely due to derecruitment.  Esophageal balloon placed [**2-7**]
 continue to monitor
   - haldol was on for dysynchorony, was d/c
ed as she is tolerating vent
   without paralytics now
   - continue Vanc/Zosyn/levoquin to cover HAP or possible resistant
   community organisms; day 1 was [**2-4**].  Will complete 14 day course.
   - switched zosyn to meropenem on [**2-9**] for broader ESBL GN coverage as
   patient was febrile
   - cultures pending, no growth to date
   - goal to further decrease tidal volume and decrease PEEP if possible
   .
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - added methadone for effort to try and wean fentanyl, continuing to be
   brought (from 400 to 300 today); pt continued to look comfortable
   - versed weaned from 6 to 5 today
   - continue to wean as possible, fentanyl first in order to start bowel
   movements
   .
   # Fevers
 unclear etiology, spike [**2-10**]
   - pan cultured, follow up results
   - herpes simplex positive from skin swab around mouth; acyclovir dosing
   for topical disease; if continues to spike can consider meningitis
   dosing of acyclovir; pt would not tolerate LP
   - broadened GN coverage from zosyn to meropenem
   - other differential is sinusitis, line infection, UTI, DVT, PE, drug
   fever, fungemia, SBO
   - if continues to spike, consider ID consult
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia.
   - unable to assess while sedated; trying to wean as much as possible
   - ammonia levels slightly elevated
   - evidence of cirrhosis, portal hypertension and ascites on RUQ U/S
   - consider re-tap if evidence of further ascites, still appears to have
   only small amount on exam
   - hold all home psych/pain meds
 stopped haldol [**2-9**]
   - lactulose PR, c/s adding PT when bowel function returns
   - methadone 20mg IV TID
   .
   # Constipation
 no BMs since admission
   - continue with trials of PO narcan
   - continue lactulose enemas PRN
   - consider intermittent KUBs to assess for ileus/SBO/megacolon
   - check c.diff
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable, transfuse for Hct <21
   - hct 21.5 today, will transfuse 1 unit
   - guaiac all stools (still no stools)
   - on PPI, has RIJ and PIV for access
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now; added insulin to TFs for sugar control
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
 consider changing lines due to fevers
   .
   # Code: Full
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**], family meeting today
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2164-2-9**] 06:15 PM 73.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   20 Gauge - [**2164-2-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-11 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2164-2-10**] 06:11 PM
   r/o c.diff.
   [**2-10**] Events:
   - Family meeting -> DNR
   - Acyclovir cutaneous dosing (non-meningitis dosing) OK per ID
   - Transfused 2U PRBC
   - KUB showed no evidence of megacolon, obstruction, ileus
   - Pt had LARGE BM, still with large residuals though, increased stool
   output overnight -> sent C. Diff
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 05:30 PM
   Vancomycin - [**2164-2-10**] 08:17 PM
   Acyclovir - [**2164-2-11**] 03:30 AM
   Meropenem - [**2164-2-11**] 03:30 AM
   Ciprofloxacin - [**2164-2-11**] 06:22 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-10**] 08:00 AM
   Midazolam (Versed) - [**2164-2-10**] 01:01 PM
   Fentanyl - [**2164-2-10**] 01:01 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-10**] 11:58 PM
   Methadone Hydrochloride - [**2164-2-11**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-11**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 95 (86 - 107) bpm
   BP: 98/58(71) {85/46(58) - 100/58(71)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 17 (14 - 22)mmHg
   Total In:
                                                                  5,418 mL
                                                                  1,056 mL
   PO:
   TF:
   IVF:
                                                                  2,641 mL
                                                                    511 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,050 mL
                                                                    365 mL
   Urine:
                                                                    950 mL
                                                                    365 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  4,368 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (300 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 47 cmH2O
   Plateau: 37 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 90%
   ABG: 7.32/53/70/28/0
   Ve: 7.2 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly, anasarca increasing
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   107 K/uL
   9.0 g/dL
   166 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   31 mg/dL
   104 mEq/L
   134 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2164-2-9**]  06:10 AM
                             [**2164-2-9**]  06:12 AM
                             [**2164-2-9**]  06:04 PM
                             [**2164-2-10**]  01:44 AM
                             [**2164-2-10**]  01:55 AM
                             [**2164-2-10**]  10:53 AM
                             [**2164-2-10**]  04:18 PM
                             [**2164-2-10**]  11:56 PM
                             [**2164-2-11**]  12:03 AM
                             [**2164-2-11**]  03:24 AM
   WBC
   6.4
   7.4
   11.2
   Hct
   23.0
   21.5
   27.4
   28.1
   Plt
   86
   109
   107
   Cr
   0.6
   0.8
   1.0
   TCO2
   30
   30
   31
   30
   29
   29
   Glucose
   131
   132
   166
   Other labs: PT / PTT / INR:17.8/41.6/1.6, CK / CKMB / Troponin-T:13//,
   ALT / AST:13/53, Alk Phos / T Bili:99/3.2, Amylase / Lipase:33/18,
   Fibrinogen:571 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.0 g/dL, LDH:250
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics. On vanc/[**Last Name (un) **]/cipro/acyclovir.
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for now
   with labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.
   - fluid boluses PRN keep CVP 10-12, UOP 30 cc/hr, goal MAP 65; can add
   levophed back as needed
   - stopped vilego [**2-11**]
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric and not suggestive of ARDS.  Initial A-a gradient is 19
   (expected 16). Unclear if she has underlying pulmonary disease.  Pt
   still requiring vent support and having episodes of hypoxia with
   movement, likely due to derecruitment.  Esophageal balloon placed [**2-7**]
 continue to monitor. Culture data of limited value given that
   cultures obtained after antibiotics administered.
   - haldol was on for dysynchorony, was d/c
ed as she is tolerating vent
   without paralytics now
   - continue Vanc/Zosyn/levoquin to cover HAP or possible resistant
   community organisms; day 1 was [**2-4**].  Will complete 14 day course.
   - switched zosyn to meropenem on [**2-9**] for broader ESBL GN coverage as
   patient was febrile
   - cultures pending, no growth to date
   - goal to further decrease tidal volume and decrease PEEP if possible
   - increased FI02 to 70% since poor saturations
   .
   # concern for abdominal compartment syndrome
 patient with elevated
   bladder pressures, 35, on [**2-11**], doing abdominal ultrasound to eval for
   ascities if can do therapeutic tap. Patient is ARF.
   -          giving Lasix 40mg IV X1 since fluid positive
   -          question of free air under diaphragm, spoke rads no concern
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - added methadone for effort to try and wean fentanyl, continuing to be
   brought (from 400 to 300 today); pt continued to look comfortable
   - versed weaned from 6 to 5 today
   - continue to wean as possible, fentanyl first in order to start bowel
   movements
   .
   # Fevers
 unclear etiology, spike [**2-10**]. Different includes line
   infection, but poor access and cannot change lines at this time.
   - pan cultured, follow up results
   - herpes simplex positive from skin swab around mouth; acyclovir dosing
   for topical disease; if continues to spike can consider meningitis
   dosing of acyclovir; pt would not tolerate LP
   - broadened GN coverage from zosyn to meropenem
   - other differential is sinusitis, line infection, UTI, DVT, PE, drug
   fever, fungemia, SBO
   - if continues to spike, consider ID consult
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia. Evidence of
   cirrhosis, portal hypertension and ascites on RUQ U/S
   - unable to assess while sedated; trying to wean as much as possible
   - ammonia levels slightly elevated
   - hold all home psych/pain meds
 stopped haldol [**2-9**]
   - lactulose PR, c/s adding PT when bowel function returns
   - methadone 20mg IV TID
   .
   # Constipation
 no BMs since admission
   - continue with trials of PO narcan
   - continue lactulose enemas PRN
   - consider intermittent KUBs to assess for ileus/SBO/megacolon
   - check c.diff
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable, transfuse for Hct <21
   - hct 21.5 today, will transfuse 1 unit
   - guaiac all stools (still no stools)
   - on PPI, has RIJ and PIV for access
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now; added insulin to TFs for sugar control
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
 consider changing lines due to fevers
   .
   # Code: DNR, per family meeting [**2-10**] with Dr. [**Last Name (STitle) 906**], con
t aggressive
   care otherwise
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2164-2-10**] 05:20 PM 73.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-11 11:07:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53W
   cipro started yesterday
   24 Hour Events:
 STOOL CULTURE - At [**2164-2-10**] 06:11 PM
   r/o c.diff.
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 05:30 PM
   Vancomycin - [**2164-2-10**] 08:17 PM
   Acyclovir - [**2164-2-11**] 03:30 AM
   Meropenem - [**2164-2-11**] 03:30 AM
   Ciprofloxacin - [**2164-2-11**] 06:22 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2164-2-11**] 03:30 AM
   Midazolam (Versed) - [**2164-2-11**] 08:03 AM
   Pantoprazole (Protonix) - [**2164-2-11**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-11**] 08:04 AM
   Fentanyl - [**2164-2-11**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-11**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 95 (86 - 107) bpm
   BP: 119/58(78) {85/46(58) - 120/64(79)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 17 (14 - 22)mmHg
   Total In:
                                                                  5,418 mL
                                                                  1,408 mL
   PO:
   TF:
   IVF:
                                                                  2,641 mL
                                                                    593 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,050 mL
                                                                    525 mL
   Urine:
                                                                    950 mL
                                                                    525 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  4,368 mL
                                                                    883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (300 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.32/53/70/28/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: anasarca
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: right)
   Abdominal: No(t) Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, unresponsive
   Labs / Radiology
   9.0 g/dL
   107 K/uL
   166 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   31 mg/dL
   104 mEq/L
   134 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2164-2-9**]  06:10 AM
                             [**2164-2-9**]  06:12 AM
                             [**2164-2-9**]  06:04 PM
                             [**2164-2-10**]  01:44 AM
                             [**2164-2-10**]  01:55 AM
                             [**2164-2-10**]  10:53 AM
                             [**2164-2-10**]  04:18 PM
                             [**2164-2-10**]  11:56 PM
                             [**2164-2-11**]  12:03 AM
                             [**2164-2-11**]  03:24 AM
   WBC
   6.4
   7.4
   11.2
   Hct
   23.0
   21.5
   27.4
   28.1
   Plt
   86
   109
   107
   Cr
   0.6
   0.8
   1.0
   TCO2
   30
   30
   31
   30
   29
   29
   Glucose
   131
   132
   166
   Other labs: PT / PTT / INR:17.8/41.6/1.6, CK / CKMB / Troponin-T:13//,
   ALT / AST:13/53, Alk Phos / T Bili:99/3.2, Amylase / Lipase:33/18,
   Fibrinogen:571 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.0 g/dL, LDH:250
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR with stable bilateral infiltrates, ? free abdominal air
   Microbiology: CDiff neg
   HSV DFA + oral mucosa
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS) - relieved with lactulose
 fevers - no fevers x 24 hours, continue current antibiotic regimen,
   culture as needed
 CIRRHOSIS OF LIVER, OTHER - continue supportive care, follow
   abdominal exal for worsening distension, follow bladder pressures
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**]) -
   O2 needs increased this morning, continue abx, increase PEEP
 HYPOTENSION (NOT SHOCK) - no need for pressors now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2164-2-10**] 05:20 PM 73.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2164-02-12 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-11**] Events:
   - no free air under diaphragm
   - bladder pressure intitally 35, rpt 20
   - given Lasix 40mg IV X3, negative 1.5L
   - ultrasound did not show enough to para
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 05:30 PM
   Vancomycin - [**2164-2-11**] 09:40 PM
   Meropenem - [**2164-2-12**] 04:17 AM
   Acyclovir - [**2164-2-12**] 05:18 AM
   Ciprofloxacin - [**2164-2-12**] 05:18 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2164-2-11**] 08:03 AM
   Fentanyl - [**2164-2-11**] 08:04 AM
   Haloperidol (Haldol) - [**2164-2-11**] 12:55 PM
   Pantoprazole (Protonix) - [**2164-2-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-12**] 12:25 AM
   Methadone Hydrochloride - [**2164-2-12**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.1
   HR: 86 (82 - 98) bpm
   BP: 98/57(72) {89/50(63) - 138/73(96)} mmHg
   RR: 24 (17 - 41) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 19 (18 - 19)mmHg
   Bladder pressure: 35 (35 - 35) mmHg
   Total In:
                                                                  3,600 mL
                                                                  1,161 mL
   PO:
   TF:
   IVF:
                                                                  1,747 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    640 mL
   Urine:
                                                                  2,060 mL
                                                                    290 mL
   NG:
                                                                    300 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,240 mL
                                                                    521 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 91%
   ABG: 7.35/55/75/30/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly, anasarca increasing
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   125 K/uL
   9.7 g/dL
   142 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   38 mg/dL
   104 mEq/L
   136 mEq/L
   27.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2164-2-10**]  01:44 AM
                             [**2164-2-10**]  01:55 AM
                             [**2164-2-10**]  10:53 AM
                             [**2164-2-10**]  04:18 PM
                             [**2164-2-10**]  11:56 PM
                             [**2164-2-11**]  12:03 AM
                             [**2164-2-11**]  03:24 AM
                             [**2164-2-11**]  02:55 PM
                             [**2164-2-12**]  04:37 AM
                             [**2164-2-12**]  05:04 AM
   WBC
   7.4
   11.2
   10.7
   Hct
   21.5
   27.4
   28.1
   27.7
   Plt
   109
   107
   125
   Cr
   0.8
   1.0
   0.9
   TCO2
   31
   30
   29
   29
   31
   32
   Glucose
   132
   166
   142
   Other labs: PT / PTT / INR:17.2/43.0/1.6, CK / CKMB / Troponin-T:13//,
   ALT / AST:15/59, Alk Phos / T Bili:105/2.7, Amylase / Lipase:33/18,
   Differential-Neuts:72.0 %, Band:9.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:571 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:289 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics. On vanc/[**Last Name (un) **]/cipro/acyclovir.
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for now
   with labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.  Stable BPs since then
   - fluid boluses PRN keep CVP 10-12, UOP 30 cc/hr, goal MAP 65; can add
   levophed back as needed
   - stopped vilego [**2-11**]
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric but still likely had ARDS.  Initial A-a gradient is 19
   (expected 16).  Pt still requiring vent support and having episodes of
   hypoxia with movement, likely due to derecruitment.  Esophageal balloon
   placed [**2-7**]
 continue to monitor. Culture data of limited value given
   that cultures obtained after antibiotics administered.
   - haldol was on for dysynchorony, was d/c
ed as she is tolerating vent
   without paralytics now
   - continue Vanc /levoquin to cover HAP or possible resistant community
   organisms; day 1 was [**2-4**].  Will complete 14 day course.
   - switched zosyn to meropenem on [**2-9**] for broader ESBL GN coverage as
   patient was febrile; will continued until end of above course
   - cultures pending, no growth to date
   - goal to further decrease tidal volume and decrease PEEP if possible
   - still requiring high FiO2, from 70 to 60 today
   .
   # concern for abdominal compartment syndrome
 patient with elevated
   bladder pressures, 35, on [**2-11**], doing abdominal ultrasound to eval for
   ascities if can do therapeutic tap. Patient has ARF.  US did not show
   enough fluid for tap, likely is a combination of constipation and
   ascites causing elevated pressures; bladder pressures now around 20
   after diuresis
   -          Continue diuresis as BP will tolerate
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - cont fent/versed to maintain vent synchrony
   - continue methadone for hx of opioid use and with help weaning
   fentanyl to avoid hyperalgesia
   - continue to wean as possible, fentanyl first in order to start bowel
   movements
   .
   # Fevers
 unclear etiology, spike [**2-10**]. Different includes line
   infection, but poor access and cannot change lines at this time.
   - pan cultured, follow up results
   - herpes simplex positive from skin swab around mouth; acyclovir dosing
   for topical disease; if continues to spike can consider meningitis
   dosing of acyclovir; pt would not tolerate LP
   - broadened GN coverage from zosyn to meropenem
   - other differential is sinusitis, line infection, UTI, DVT, PE, drug
   fever, fungemia, SBO
   - has not spiked since [**2-10**], continue to monitor
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia. Evidence of
   cirrhosis, portal hypertension and ascites on RUQ U/S
   - waking up slowly, opening eyes, still not following commands, though
   - unable to assess while sedated; trying to wean as much as possible
   - hold all home psych/pain meds
 stopped haldol [**2-9**]
   - lactulose PR, c/s adding PT when bowel function returns
   - methadone 20mg IV TID
   .
   # Constipation
 had BM over weekend after docusate and PO lactulose
   - added reglan to improve bowel motility
   - continue with trials of PO narcan, although was dysynchorous on vent
   after narcan
   - continue lactulose enemas PRN
   - consider intermittent KUBs to assess for ileus/SBO/megacolon
   - c.diff neg times 2
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable, transfuse for Hct <21
   - transfused 2 units over weekend for low hct, now stabalized
   - guaiac all stools
   - on PPI, has RIJ and PIV for access
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now; added insulin to TFs for sugar control
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
 requested PICC, will d/c CVL after PICC
   placed
   .
   # Code: DNR, per family meeting [**2-10**] with Dr. [**Last Name (STitle) 906**], con
t aggressive
   care otherwise
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2164-2-11**] 05:16 PM 73.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-12 10:04:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   abd u/s with small ascites
   bladder pressures fell from 35 to 20 with diureses
   24 Hour Events:
                                Patient unable to provide history: intubated
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-2-9**] 05:30 PM
   Vancomycin - [**2164-2-11**] 09:40 PM
   Meropenem - [**2164-2-12**] 04:17 AM
   Acyclovir - [**2164-2-12**] 05:18 AM
   Ciprofloxacin - [**2164-2-12**] 05:18 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2164-2-11**] 12:55 PM
   Methadone Hydrochloride - [**2164-2-12**] 04:18 AM
   Pantoprazole (Protonix) - [**2164-2-12**] 07:37 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-12**] 07:37 AM
   Furosemide (Lasix) - [**2164-2-12**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-12**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 91 (82 - 98) bpm
   BP: 111/69(84) {89/50(63) - 138/73(96)} mmHg
   RR: 24 (17 - 41) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 17 (17 - 19)mmHg
   Bladder pressure: 20 (20 - 35) mmHg
   Total In:
                                                                  3,600 mL
                                                                  1,443 mL
   PO:
   TF:
   IVF:
                                                                  1,747 mL
                                                                    725 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    995 mL
   Urine:
                                                                  2,060 mL
                                                                    645 mL
   NG:
                                                                    300 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,240 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 34 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.35/55/75/30/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opening eyes, not following commands
   Labs / Radiology
   9.7 g/dL
   125 K/uL
   142 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.4 mEq/L
   38 mg/dL
   104 mEq/L
   136 mEq/L
   27.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2164-2-10**]  01:44 AM
                             [**2164-2-10**]  01:55 AM
                             [**2164-2-10**]  10:53 AM
                             [**2164-2-10**]  04:18 PM
                             [**2164-2-10**]  11:56 PM
                             [**2164-2-11**]  12:03 AM
                             [**2164-2-11**]  03:24 AM
                             [**2164-2-11**]  02:55 PM
                             [**2164-2-12**]  04:37 AM
                             [**2164-2-12**]  05:04 AM
   WBC
   7.4
   11.2
   10.7
   Hct
   21.5
   27.4
   28.1
   27.7
   Plt
   109
   107
   125
   Cr
   0.8
   1.0
   0.9
   TCO2
   31
   30
   29
   29
   31
   32
   Glucose
   132
   166
   142
   Other labs: PT / PTT / INR:17.2/43.0/1.6, CK / CKMB / Troponin-T:13//,
   ALT / AST:15/59, Alk Phos / T Bili:105/2.7, Amylase / Lipase:33/18,
   Differential-Neuts:72.0 %, Band:9.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:571 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:289 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR stable right infiltrates, slight improvement left
   infiltrates
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS), absent bowel sounds, vomiting -
   continue TPN and OG suction
 fevers - no fevers x 48 hours, continue current antibiotic regimen to
   complete 14 days, culture as needed
 CIRRHOSIS OF LIVER, OTHER - continue supportive care, follow
   abdominal eval for worsening distension, follow bladder pressures
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**]),
   respiratory failure  - O2 needs stable, no room to adjust vent,
   continue abx
 HYPOTENSION (NOT SHOCK) - no need for pressors x 3 days
 ANEMIA, OTHER - stable, follow
   anasarca - diurese as tolerated
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2164-2-11**] 05:16 PM 73.[**Telephone/Fax (5) 1993**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2164-02-13 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned FiO2 from 70 to 60%
   - sedation weaned slightly, tolerating vent
   - diuresed with lasix 40 mg IV, then 20 mg IV x2 (limited by moderately
   low BPs in the afternoon)
   - bladder pressures stable around 20
   - no bowel movement yesterday
   - added reglan to try and increase motility, has some vomitting
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-12**] 09:16 PM
   Meropenem - [**2164-2-13**] 03:29 AM
   Acyclovir - [**2164-2-13**] 05:32 AM
   Ciprofloxacin - [**2164-2-13**] 05:33 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-2-12**] 08:16 PM
   Heparin Sodium (Prophylaxis) - [**2164-2-13**] 12:29 AM
   Furosemide (Lasix) - [**2164-2-13**] 03:28 AM
   Methadone Hydrochloride - [**2164-2-13**] 04:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 91 (85 - 100) bpm
   BP: 105/58(76) {93/51(66) - 116/69(84)} mmHg
   RR: 30 (21 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 17 (17 - 19)mmHg
   Bladder pressure: 16 (16 - 20) mmHg
   Total In:
                                                                  3,610 mL
                                                                  1,186 mL
   PO:
   TF:
   IVF:
                                                                  1,756 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  3,005 mL
                                                                  1,590 mL
   Urine:
                                                                  2,655 mL
                                                                  1,540 mL
   NG:
                                                                    350 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    605 mL
                                                                   -404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   Compliance: 22.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.41/53/65/33/6
   Ve: 6.8 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly, anasarca increasing
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   126 K/uL
   8.8 g/dL
   138 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   38 mg/dL
   103 mEq/L
   138 mEq/L
   27.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-2-10**]  04:18 PM
                             [**2164-2-10**]  11:56 PM
                             [**2164-2-11**]  12:03 AM
                             [**2164-2-11**]  03:24 AM
                             [**2164-2-11**]  02:55 PM
                             [**2164-2-12**]  04:37 AM
                             [**2164-2-12**]  05:04 AM
                             [**2164-2-12**]  11:36 PM
                             [**2164-2-13**]  02:54 AM
                             [**2164-2-13**]  05:17 AM
   WBC
   11.2
   10.7
   8.0
   Hct
   27.4
   28.1
   27.7
   27.1
   Plt
   107
   125
   126
   Cr
   1.0
   0.9
   0.8
   TCO2
   29
   29
   31
   32
   34
   35
   Glucose
   166
   142
   138
   Other labs: PT / PTT / INR:17.1/37.8/1.5, CK / CKMB / Troponin-T:13//,
   ALT / AST:14/60, Alk Phos / T Bili:100/2.7, Amylase / Lipase:33/18,
   Differential-Neuts:72.0 %, Band:9.0 %, Lymph:7.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:571 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:289 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics. On vanc/[**Last Name (un) **]/cipro/acyclovir.
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for now
   with labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.  Stable BPs since then
   - fluid boluses PRN keep CVP 10-12, UOP 30 cc/hr, goal MAP 65; can add
   levophed back as needed
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric but still likely had ARDS.  Initial A-a gradient is 19
   (expected 16).  Pt still requiring vent support and having episodes of
   hypoxia with movement, likely due to derecruitment.  Esophageal balloon
   placed [**2-7**]
 continue to monitor. Culture data of limited value given
   that cultures obtained after antibiotics administered.
   - haldol was on for dysynchorony, was d/c
ed as she is tolerating vent
   without paralytics now
   - continue Vanc /[**Last Name (un) 1540**]/Cipro to cover HAP or possible resistant
   community organisms; day 1 was [**2-4**].  Will complete 14 day course.
   - switched zosyn to meropenem on [**2-9**] for broader ESBL GN coverage as
   patient was febrile; will continued until end of above course
   - cultures pending, no growth to date
   - goal to further decrease tidal volume and decrease PEEP if possible
   - still requiring high FiO2, from 70 to 60 today
   .
   # Concern for abdominal compartment syndrome
 patient with elevated
   bladder pressures, 35, on [**2-11**], doing abdominal ultrasound to eval for
   ascities if can do therapeutic tap. Patient has ARF.  US did not show
   enough fluid for tap, likely is a combination of constipation and
   ascites causing elevated pressures; bladder pressures now around 20
   after diuresis
   -          Continue diuresis as BP will tolerate
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - cont fent/versed to maintain vent synchrony
   - continue methadone for hx of opioid use and with help weaning
   fentanyl to avoid hyperalgesia
   - continue to wean as possible, fentanyl first in order to start bowel
   movements
   .
   # Fevers
 unclear etiology, spike [**2-10**]. Different includes line
   infection, but poor access and cannot change lines at this time.
   - pan cultured, follow up results
   - herpes simplex positive from skin swab around mouth; acyclovir dosing
   for topical disease; if continues to spike can consider meningitis
   dosing of acyclovir; pt would not tolerate LP
   - broadened GN coverage from zosyn to meropenem
   - other differential is sinusitis, line infection, UTI, DVT, PE, drug
   fever, fungemia, SBO
   - has not spiked since [**2-10**], continue to monitor
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia. Evidence of
   cirrhosis, portal hypertension and ascites on RUQ U/S
   - waking up slowly, opening eyes, still not following commands, though
   - unable to assess while sedated; trying to wean as much as possible
   - hold all home psych/pain meds
 stopped haldol [**2-9**]
   - lactulose PR, c/s adding PO when bowel function returns
   - methadone 20mg IV TID
   .
   # Constipation
 had BM over weekend after docusate and PO lactulose
   - added reglan to improve bowel motility
   - continue with trials of PO narcan, although was dysynchorous on vent
   after narcan
   - continue lactulose enemas PRN
   - consider intermittent KUBs to assess for ileus/SBO/megacolon
   - c.diff neg times 2
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable, transfuse for Hct <21
   - transfused 2 units over weekend for low hct, now stabalized
   - guaiac all stools
   - on PPI, has RIJ and PIV for access
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now; added insulin to TFs for sugar control
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
 requested PICC, will d/c CVL after PICC
   placed
   .
   # Code: DNR, per family meeting [**2-10**] with Dr. [**Last Name (STitle) 906**], con
t aggressive
   care otherwise
   .
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2164-2-12**] 05:04 PM 74 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   20 Gauge - [**2164-2-12**] 10:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-14 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-13**] Events:
   - family meeting -> CMO -> family would like to keep alive till TH so
   rest of family can come
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-12**] 09:16 PM
   Meropenem - [**2164-2-13**] 03:29 AM
   Ciprofloxacin - [**2164-2-13**] 05:33 AM
   Acyclovir - [**2164-2-13**] 12:35 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2164-2-14**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-14**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 101 (87 - 102) bpm
   BP: 92/52(67) {88/50(64) - 97/57(70)} mmHg
   RR: 42 (24 - 53) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 20 (20 - 23)mmHg
   Bladder pressure: 25 (25 - 25) mmHg
   Total In:
                                                                  2,435 mL
                                                                    146 mL
   PO:
   TF:
   IVF:
                                                                  1,124 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                    540 mL
   Urine:
                                                                  3,340 mL
                                                                    540 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -955 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 92%
   ABG: 7.42/55/60/34/8
   Ve: 7 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly, anasarca increasing
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   126 K/uL
   8.8 g/dL
   117 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   40 mg/dL
   103 mEq/L
   140 mEq/L
   27.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-2-11**]  12:03 AM
                             [**2164-2-11**]  03:24 AM
                             [**2164-2-11**]  02:55 PM
                             [**2164-2-12**]  04:37 AM
                             [**2164-2-12**]  05:04 AM
                             [**2164-2-12**]  11:36 PM
                             [**2164-2-13**]  02:54 AM
                             [**2164-2-13**]  05:17 AM
                             [**2164-2-13**]  03:39 PM
                             [**2164-2-13**]  03:56 PM
   WBC
   11.2
   10.7
   8.0
   Hct
   28.1
   27.7
   27.1
   Plt
   107
   125
   126
   Cr
   1.0
   0.9
   0.8
   0.8
   TCO2
   29
   31
   32
   34
   35
   37
   Glucose
   166
   142
   138
   117
   Other labs: PT / PTT / INR:17.1/37.8/1.5, CK / CKMB / Troponin-T:13//,
   ALT / AST:14/60, Alk Phos / T Bili:100/2.7, Amylase / Lipase:33/18,
   Differential-Neuts:56.0 %, Band:11.0 %, Lymph:25.0 %, Mono:5.0 %,
   Eos:1.0 %, Fibrinogen:571 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0
   g/dL, LDH:289 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics. On vanc/[**Last Name (un) **]/cipro/acyclovir.
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for now
   with labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.  Stable BPs since then.
   - fluid boluses PRN keep CVP 10-12, UOP 30 cc/hr, goal MAP 65; can add
   levophed back as needed -> would like to limit fluid overload as long
   as CVP adequate
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric but still likely had ARDS.  Initial A-a gradient is 19
   (expected 16).  Pt still requiring vent support and having episodes of
   hypoxia with movement, likely due to derecruitment.  Esophageal balloon
   placed [**2-7**]
 continue to monitor. Culture data of limited value given
   that cultures obtained after antibiotics administered.
   - haldol was on for dysynchorony, was d/c
ed as she is tolerating vent
   without paralytics now
   - continue Vanc/[**Last Name (un) 1540**]/Cipro to cover HAP, ESBL GN, possible resistant
   community organisms; day 1 was [**2-4**].  Complete 10 day course today [**2-13**]
   - switched zosyn to meropenem on [**2-9**] for broader ESBL GN coverage as
   patient was febrile
   - cultures pending, no growth to date
   - goal to further decrease tidal volume and decrease PEEP if possible
   - still requiring high FiO2, weaned down to 50% overnight
   .
   # Concern for abdominal compartment syndrome
 patient with elevated
   bladder pressures, 35, on [**2-11**], doing abdominal ultrasound to eval for
   ascities if can do therapeutic tap. Patient has ARF.  US did not show
   enough fluid for tap, likely is a combination of constipation and
   ascites causing elevated pressures; bladder pressures now around 20
   after diuresis
   -          Continue diuresis as BP will tolerate, goal 1.5L negative
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - cont fent/versed to maintain vent synchrony
   - continue methadone for hx of opioid use and with help weaning
   fentanyl to avoid hyperalgesia
   - continue to wean as possible, fentanyl first in order to start bowel
   movements
   .
   # Fevers
 unclear etiology, spike [**2-10**]. Different includes line
   infection, but poor access and cannot change lines at this time.
   - pan cultured, follow up results
   - herpes simplex positive from skin swab around mouth; stopping
   acyclovir today, very low suspicion for HSV encephalitis
   - ABX stopped [**2-13**]
   - other differential is sinusitis, line infection, UTI, DVT, PE, drug
   fever, fungemia, SBO
   - has not spiked since [**2-10**], continue to monitor
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia. Evidence of
   cirrhosis, portal hypertension and ascites on RUQ U/S
   - waking up slowly, opening eyes, still not following commands, though
   - unable to assess while sedated; trying to wean as much as possible
   - hold all home psych/pain meds
 stopped haldol [**2-9**]
   - lactulose PR, c/s adding PO when bowel function returns
   - methadone 20mg IV TID
   .
   # Constipation
 had BM over weekend after docusate and PO lactulose
   - added reglan to improve bowel motility
   - continue with trials of PO narcan, although was dysynchorous on vent
   after narcan
   - continue lactulose enemas PRN
   - consider intermittent KUBs to assess for ileus/SBO/megacolon
   - c.diff neg times 2
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   - appreciate liver recs
   - lactulose PR, will give PO when bowel function returns
   .
   # Positive tricyclics: She reportedly takes flexeril and imipramine,
   which can cause positive tricyclic levels. Her levels were high (670)
   at OSH placing her at risk for cardiac arrhythmias.   EKGs have been
   stable.
   - no need for further monitoring, stable QRS since admission
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - HCT stable, transfuse for Hct <21
   - transfused 2 units over weekend for low hct, now stabalized
   - guaiac all stools
   - on PPI, has RIJ and PIV for access
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - replete electrolytes PRN, IVF, NPO -> will need to c/s TFs when bowel
   function returns (will try to d/c paralytics and wean narcotics) but
   will give TPN now; added insulin to TFs for sugar control
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: IJ/peripherals
 requested PICC, will d/c CVL after PICC
   placed
   .
   # Code: CMO Meeting with Mr. [**Known lastname **], patient's husband and her daughter,
   to discuss goals of care.  Patient has been increasingly distressed
   recently over declining condition. Multiple conversations in the past
   expressing her desire not to have life prolonging therapy in the event
   of irrecoverable disease.  Her pulmonary function is gradually
   worsening although cultures remain negative.  She is massively volume
   overloaded with chest wall restriction. Family is confident that the
   patient would decline further care and would want comfort to be the
   primary priority. We will stop meds not directed at her comfort.  No
   CPR or escalation of care. They will make a decision about withdrawal
   of mechanical ventilation by Thursday [**2-16**].
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-15 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2164-2-14**] 04:00 PM
   [**2-14**] Events:
   - stable on vent settings
   - con't [**Month/Year (2) 303**] care
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2164-2-12**] 09:16 PM
   Meropenem - [**2164-2-13**] 03:29 AM
   Ciprofloxacin - [**2164-2-13**] 05:33 AM
   Acyclovir - [**2164-2-13**] 12:35 PM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2164-2-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-15**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.7
   HR: 102 (87 - 102) bpm
   BP: 96/55(70) {88/51(65) - 110/62(79)} mmHg
   RR: 27 (20 - 67) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    502 mL
                                                                    135 mL
   PO:
             TF:
   IVF:
                                                                    502 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    335 mL
   Urine:
                                                                  1,410 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -908 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 21
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 36 cmH2O
   SpO2: 96%
   ABG: 7.45/47/76.[**Numeric Identifier 433**]//7
   Ve: 6.6 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly, anasarca increasing
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   126 K/uL
   8.8 g/dL
   117 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   40 mg/dL
   103 mEq/L
   140 mEq/L
   27.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-2-11**]  02:55 PM
                             [**2164-2-12**]  04:37 AM
                             [**2164-2-12**]  05:04 AM
                             [**2164-2-12**]  11:36 PM
                             [**2164-2-13**]  02:54 AM
                             [**2164-2-13**]  05:17 AM
                             [**2164-2-13**]  03:39 PM
                             [**2164-2-13**]  03:56 PM
                             [**2164-2-15**]  03:32 AM
                             [**2164-2-15**]  06:00 AM
   WBC
   10.7
   8.0
   Hct
   27.7
   27.1
   Plt
   125
   126
   Cr
   0.9
   0.8
   0.8
   TCO2
   31
   32
   34
   35
   37
   34
   34
   Glucose
   142
   138
   117
   Other labs: PT / PTT / INR:17.1/37.8/1.5, CK / CKMB / Troponin-T:13//,
   ALT / AST:14/60, Alk Phos / T Bili:100/2.7, Amylase / Lipase:33/18,
   Differential-Neuts:56.0 %, Band:11.0 %, Lymph:25.0 %, Mono:5.0 %,
   Eos:1.0 %, Fibrinogen:571 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0
   g/dL, LDH:289 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA severe ARDS, intubated,
   off paralytics, [**Year (4 digits) 303**].
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for
   labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.  Stable BPs since then. Patient [**Name (NI) 303**] since [**2-13**].
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric but still likely had ARDS.  Initial A-a gradient is 19
   (expected 16).  Pt still requiring vent support and having episodes of
   hypoxia with movement, likely due to derecruitment.  Esophageal balloon
   placed [**2-7**] for four days. Culture data of limited value given that
   cultures obtained after antibiotics administered. Patient was on
   Vanc/[**Last Name (un) 1540**]/Cipro until made [**Last Name (un) 303**] on [**2-13**]. Patient required significant
   respiratory support with PEEP greater than 20 and FIO2 greater than 50.
   On [**2-15**], noted resp alkalosis and decreased RR.
   .
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - cont fent/versed to maintain vent synchrony
   - continue methadone for hx of opioid use and with help weaning
   fentanyl to avoid hyperalgesia
   .
   # Fevers
 unclear etiology, spike [**2-10**]. Different includes line
   infection, but poor access and cannot change lines at this time.
   - pan cultured, follow up results
   - herpes simplex positive from skin swab around mouth; stopping
   acyclovir today, very low suspicion for HSV encephalitis
   - ABX stopped [**2-13**]
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue to monitor and control pain
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia. Evidence of
   cirrhosis, portal hypertension and ascites on RUQ U/S.
   .
   # Constipation
 had BM over weekend after docusate and PO lactulose
   after paralytics removed. Lactulose enemas were given for possibility
   of hepatic encephalopathy.
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   -
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   - on PPI, has RIJ and PIV for access
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - monitor, has remained stable
   .
   # FEN:
   - stopped TPN after [**Month/Year (2) 303**] on [**2-13**]
   .
   # Prophylaxis: off SQH and PPI on [**2-13**] when [**Month/Year (2) 303**].
   .
   # Access: IJ/peripherals
 central line
   .
   # Code: [**Month/Year (2) 303**] Meeting with Mr. [**Known lastname **], patient's husband and her daughter,
   to discuss goals of care.  Patient has been increasingly distressed
   recently over declining condition. Multiple conversations in the past
   expressing her desire not to have life prolonging therapy in the event
   of irrecoverable disease.  Her pulmonary function is gradually
   worsening although cultures remain negative.  She is massively volume
   overloaded with chest wall restriction. Family is confident that the
   patient would decline further care and would want comfort to be the
   primary priority. We will stop meds not directed at her comfort.  No
   CPR or escalation of care. They will make a decision about withdrawal
   of mechanical ventilation by Thursday [**2-16**].
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-16 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no changes to vent
   - febrile overnight
   - continued [** 303**] care
   Allergies:
   Lamictal (Oral) (Lamotrigine)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2164-2-13**] 12:35 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2164-2-16**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-16**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 89 (83 - 95) bpm
   BP: 94/53(68) {85/48(62) - 109/62(80)} mmHg
   RR: 21 (20 - 52) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    506 mL
                                                                    152 mL
   PO:
             TF:
   IVF:
                                                                    506 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    340 mL
   Urine:
                                                                  1,100 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -594 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 21
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 37 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 90%
   ABG: ////
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: ant
   and laterally)
   Abdominal:  firm, distended, non tympanic, Bowel sounds hypoactive but
   present, + hepatomegaly
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool, Jaundice
   Neurologic: No(t) Attentive, No(t), Responds to: Not assessed, No(t)
   Oriented (to): , Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   126 K/uL
   8.8 g/dL
   117 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   40 mg/dL
   103 mEq/L
   140 mEq/L
   27.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-2-11**]  02:55 PM
                             [**2164-2-12**]  04:37 AM
                             [**2164-2-12**]  05:04 AM
                             [**2164-2-12**]  11:36 PM
                             [**2164-2-13**]  02:54 AM
                             [**2164-2-13**]  05:17 AM
                             [**2164-2-13**]  03:39 PM
                             [**2164-2-13**]  03:56 PM
                             [**2164-2-15**]  03:32 AM
                             [**2164-2-15**]  06:00 AM
   WBC
   10.7
   8.0
   Hct
   27.7
   27.1
   Plt
   125
   126
   Cr
   0.9
   0.8
   0.8
   TCO2
   31
   32
   34
   35
   37
   34
   34
   Glucose
   142
   138
   117
   Other labs: PT / PTT / INR:17.1/37.8/1.5, CK / CKMB / Troponin-T:13//,
   ALT / AST:14/60, Alk Phos / T Bili:100/2.7, Amylase / Lipase:33/18,
   Differential-Neuts:56.0 %, Band:11.0 %, Lymph:25.0 %, Mono:5.0 %,
   Eos:1.0 %, Fibrinogen:571 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0
   g/dL, LDH:289 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 53 y/o F hx Hep C, rib fractures, PNA, severe ARDS,
   intubated, off paralytics, [**Year (4 digits) 303**].
    .
   # Sepsis / Hypotension: She was transiently hypotensive following
   intubation and sedation. I suspect this is sedation related; however,
   given degree of pneumonia, sepsis if certainly possible.  On [**2-5**]
   required 7.5 L and 0.08 levophed in the setting of increased sedation
   (fentanyl 400, versed 4, propofol 80).  Was requiring levofed for
   labile BPs as low as 70s up to 190s until [**2-10**] when pressors were
   weaned off.  Stable BPs since then. Patient [**Name (NI) 303**] since [**2-13**].
   .
   # Hypoxic respiratory failure: s/p intubation. Her fever, bandemia, CXR
   are indicative of pneumonia.  Suspect bacterial > viral. It is unclear
   if she had any aspiration events. Low clinical suspicion for PE.
   Notably she is quite hypoxic with P/F ratio on admission is 87. CXR is
   asymmetric but still likely had ARDS.  Initial A-a gradient is 19
   (expected 16).  Pt still requiring vent support and having episodes of
   hypoxia with movement, likely due to derecruitment.  Esophageal balloon
   placed [**2-7**] for four days. Culture data of limited value given that
   cultures obtained after antibiotics administered. Patient was on
   Vanc/[**Last Name (un) 1540**]/Cipro until made [**Last Name (un) 303**] on [**2-13**]. Patient required significant
   respiratory support with PEEP greater than 20 and FIO2 greater than 50.
   On [**2-15**], noted resp alkalosis and decreased RR. Patient [**Name (NI) 303**] since [**2-13**].
   .
   # Sedation:  patient weaned off paralytics on [**2-9**], slowly weaning
   fentanyl and versed
   - cont fent/versed to maintain vent synchrony
   - continue methadone
   - morphine gtt
   .
   # Fevers
 unclear etiology, spike [**2-10**]. Different includes line
   infection, but poor access and cannot change lines at this time.
   - ABX stopped [**2-13**]
   .
   # Rib fractures: Likely contributing to impaired respiratory
   mechanics.  No evidence of flail chest.
   - continue pain control
   .
   # Altered mental status: Hx obtained from some OSH records. Per
   husband, she had bizarre speech prior to admission X 2 days. DDx
   includes hepatic encephalopathy, medications as she is taking a lot of
   psych meds, meningitis is also possible although she has more likely
   causes for fever and altered mental status.  Mental status will be
   difficult to follow given current sedation and paralytics.  Will
   continue to assess as pt weaned from sedation.  Paracentesis
   unsuccessful [**2-5**]. Concern for opiate induced hyperalgesia. Evidence of
   cirrhosis, portal hypertension and ascites on RUQ U/S.  Patient [**Name (NI) 303**]
   since [**2-13**].
   .
   # Constipation
 had BM over weekend with docusate and PO lactulose
   after paralytics removed. Lactulose enemas were given for possibility
   of hepatic encephalopathy. Bowel regimen d/c [**2-13**].
   .
   # Hep C: RUQ U/S shows cirrhosis, portal HTN and ascites
   - Hep C VL 209,000
   .
   # Anemia: She has guaiac positive brown stools at OSH, unclear what
   baseline HCT is. She does have hx of B- thalessemia. No evidence of
   large bleed. Unknown if has hx varices.
   -          on PPI, has RIJ and PIV for access
   -          Patient [**Name (NI) 303**] since [**2-13**].
   .
   # Thrombocytopenia: Suspect from chronic liver disease.
   - Patient [**Name (NI) 303**] since [**2-13**].
   .
   # FEN:
   - stopped TPN after [**Month/Year (2) 303**] on [**2-13**]
   .
   # Prophylaxis: off SQH and PPI on [**2-13**] when [**Month/Year (2) 303**].
   .
   # Access: IJ/peripherals
 central line
   .
   # Code: [**Month/Year (2) 303**] Meeting with Mr. [**Known lastname **], patient's husband and her daughter,
   to discuss goals of care.  Patient has been increasingly distressed
   recently over declining condition. Multiple conversations in the past
   expressing her desire not to have life prolonging therapy in the event
   of irrecoverable disease.  Her pulmonary function is gradually
   worsening although cultures remain negative.  She is massively volume
   overloaded with chest wall restriction. Family is confident that the
   patient would decline further care and would want comfort to be the
   primary priority. We will stop meds not directed at her comfort.  No
   CPR or escalation of care. They will make a decision about withdrawal
   of mechanical ventilation by Thursday [**2-16**].  Will keep on
   fentanyl/versed/methadone/morphine gtt.
   # Communication: Patient
   Husband: [**Name (NI) 1529**] [**Name (NI) **] [**Telephone/Fax (1) 4077**]
   .
   # Disposition: [**Telephone/Fax (1) 303**] since [**2-13**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-2-4**] 04:58 AM
   Arterial Line - [**2164-2-4**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of resident
s history and exam.  Family
   assembled and as per plan patient was extubated. Fentanyl and Versed
   used to minimize resp distress.
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2164-2-16**] 18:11 ------